US07229609B2
In a reactor fitted with a Dean-Stark apparatus hydroxymethyltrimethylsilane (3.8 g, 0.036 mol) and cyanoacetic acid (3.1 g, 0.036 mol) in 50 ml of toluene are refluxed for 4 hours in the presence of one drop of concentrated sulfuric acid. The organic phase is washed twice with water and is dried over sodium sulfate. It is concentrated under reduced pressure. Distillation under vacuum (b.p. 80° C. under 0.4 hPa) gives 4.3 g (69% yield) of trimethylsilanylmethyl cyanoacetate in the form of a colorless liquid which is used as it is in the following step.

reactant | hydroxymethyltrimethylsilane | 0.036 mol, 3.8 g | OC[Si](C)(C)C | C4H12OSi
reactant | cyanoacetic acid | 0.036 mol, 3.1 g | C(#N)CC(=O)O | C3H3NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | trimethylsilanylmethyl cyanoacetate | 4.3 g, 69% yield | C(#N)CC(=O)OC[Si](C)(C)C | C7H13NO2Si
